US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-(4-phenylbenzoylamino)benzamide
To a solution of N-(5-chloropyridin-2-yl)-2-aminobenzamide(0.247 g, 1 mmol) in dichloromethane (10 mL) and pyridine (0.5 mL) was added a solution of 4-biphenylcarbonyl chloride (0.217 g, 1 mmol) in dichloromethane (5 mL). After stirring overnight the solvent was removed in vacuo. The residue was partitioned between ethyl acetate (50 mL) and water (25 mL). Separate the layers and wash the organic layer with water (2×10 mL), saturated sodium bicarbonate (2×20 mL), hydrochloric acid (0.2 N, 1×20 mL). Dried over MgSO4, filtered and concentrated in vacuo. The residue was then purified by RPHPLC (30% ethyl acetate/hexane) to give 0.4 g (94%) of pure product.

reactant | N-(5-chloropyridin-2-yl)-2-aminobenzamide | 1 mmol, 0.247 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)N)=O | C12H10ClN3O
reactant | 4-biphenylcarbonyl chloride | 1 mmol, 0.217 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(5-Chloropyridin-2-yl)-2-(4-phenylbenzoylamino)benzamide | 0.4 g, 94% | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C1=CC=CC=C1)=O)=O | C25H18ClN3O2
